US06329400B1
A solution of (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1s)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide (23 mg, 0.032 mmol) in acetic acid-water (4:1, 1 mL) is heated to 50° C. for 16 h. The reaction mixture is concentrated, then dissolved in toluene and concentrated in vacuo. The procedure is repeated once again to afford the crude product which is recrystallized from dichloromethane-methanol-diethyl ether to provide (2R,3S)-3-(formyl-hydroxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1S)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide as a solid (14 mg, 69% yield).

reactant | (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1s)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide | 0.032 mmol, 23 mg | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(NC=1SC=NN1)=O)NC([C@@H]([C@H](CCC)N(OC1OCCCC1)C=O)CCCC1=CC=CC=C1)=O | C37H50N6O7S
solvent | acetic acid water | 1 mL | C(C)(=O)O.O
product | (2R,3S)-3-(formyl-hydroxyamino)-2-(3-phenyl-1-propyl)hexanoic acid [(1S)-5-benzyloxycarbonylamino-1-(1,3,4-thiadiazol-2-ylcarbamoyl)-1-pentyl]amide | 14 mg, 69% yield | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(NC=1SC=NN1)=O)NC([C@@H]([C@H](CCC)N(O)C=O)CCCC1=CC=CC=C1)=O | C32H42N6O6S
